US05719278
N-[4-[(4,5-Dihydropyrazolo[3,4-d]pyrido[3,2-b]azepin-6(1H)-yl)carbonyl]-3-chlorophenyl][1,1'-biphenyl]-2-carboxamide
A mixture of 0.3 g of 6-(4-amino-2-chlorobenzoyl)-1,4,5,6-tetrahydropyrazolo[3,4-d]pyrido[3,2-b]azepine, 0.52 g of 4-[1,1'-biphenyl]carbonyl chloride and 0.5 g of N,N-diisopropylethylamine in 10 ml of dichloromethane and 2 ml of tetrahydrofuran is stirred at room temperature for 24 hours. The solvent is removed and to the residue is added 10 ml of methanol and 5 mmol of 1N NaOH. The mixture is stirred overnight, concentrated under vacuum and diluted with water. The mixture is extracted with dichloromethane and the extract washed with 2N NaHCO3, H2O, brine and dried (Na2 SO4). The solvent is removed under vacuum to give the product as a solid (glass), m.p. 181°-192° C.

reactant | 6-(4-amino-2-chlorobenzoyl)-1,4,5,6-tetrahydropyrazolo[3,4-d]pyrido[3,2-b]azepine | 0.3 g | NC1=CC(=C(C(=O)N2C3=C(C4=C(CC2)C=NN4)N=CC=C3)C=C1)Cl | C17H14ClN5O
reactant | 4-[1,1'-biphenyl]carbonyl chloride | 0.52 g | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | N,N-diisopropylethylamine | 0.5 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaOH | 5 mmol, 1N | [OH-].[Na+]
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
product | N-[4-[(4,5-Dihydropyrazolo[3,4-d]pyrido[3,2-b]azepin-6(1H)-yl)carbonyl]-3-chlorophenyl][1,1'-biphenyl]-2-carboxamide | N1N=CC2=C1C1=C(N(CC2)C(=O)C2=C(C=C(C=C2)NC(=O)C=2C(=CC=CC2)C2=CC=CC=C2)Cl)C=CC=N1 | C30H22ClN5O2
